US07371747B2
Cyclopentane-1,2-dicarboxylic acid monomethyl ester (2.21 g, 12.8 mmol), 2-aminoacetonitrile hydrochloride (1.48 g, 16.0 mmol) and benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (PyBOP) (7.34 g, 14.1 mmol) were dissolved in dimethylformamide (26 mL) and the reaction mixture was cooled to 0° C. Triethylamine (4.9 mL, 35 mmol) was added and the reaction mixture was stirred at ambient temperature for 3 h. The reaction mixture was partitioned between water (150 mL) and ethyl acetate (100 mL). The product was extracted into ethyl acetate, washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on silica gel with 3:2 ethyl acetate:hexanes eluent to give methyl trans-2-{[(cyanomethyl)amino]carbonyl}cyclopentanecarboxylate as a colorless solid.

reactant | Cyclopentane-1,2-dicarboxylic acid monomethyl ester | 12.8 mmol, 2.21 g | COC(=O)C1C(CCC1)C(=O)O | C8H12O4
reactant | 2-aminoacetonitrile hydrochloride | 16.0 mmol, 1.48 g | Cl.NCC#N
reactant | tripyrrolidinophosphonium hexafluorophosphate | 14.1 mmol, 7.34 g | F[P-](F)(F)(F)(F)F.N1(CCCC1)[PH+](N1CCCC1)N1CCCC1
reactant | Triethylamine | 35 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 26 mL | CN(C=O)C | C3H7NO
product | methyl trans-2-{[(cyanomethyl)amino]carbonyl}cyclopentanecarboxylate | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)C(=O)OC | C10H14N2O3
